US07157447B2
Ethyl 2-(2-ethoxy-2-oxoethyl)-8,8-dimethyl-2,5,6,8-tetrahydro-[1,2,4]oxadiazolo[3,2-c][1,4]oxazine-2-carboxylate.
To a stirred solution of intermediate 23, 2-(2-chloroethoxy)-2-methylpropanenitrile (14.7 g, 0.10 mole) and NaI (1.5 g, 10 mmol) in ethanol (50 mL) was added an aqueous solution (50%) of hydroxylamine (18.4 g, 0.30 mole) resulting in an exothermic reaction. Following this the reaction mixture was heated at 80° C. for 2 h. Upon cooling to room temperature the solvent was removed. The resulting residue was dissolved in 1:1 ethanol/H2O (100 mL) and cooled in an ice bath. To this was added diethyl acetylenedicarboxylate (17.6 mL, 0.110 mole) over 10 min. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. Following this, it was diluted with ethyl acetate (250 mL), washed with H2O (2×100 mL), brine (50 mL), dried over Na2SO4, filtered and concentrated to give the crude product as a yellow oil. Flash chromatography on a silica gel column, eluting with 20–40% ethyl acetate/Hexanes, provided the title compound as a viscous pale yellow oil (15.29 g, 48.6% yield). 1H NMR (500 MHz, CDCl3) δ ppm: 4.35–4.28 (2H, m), 4.18–4.12 (2H, m), 3.60–3.56 (1H, m), 3.51–3.47 (1H, m), 3.30 (1H, d, J=16.2 Hz), 2.94 (1H, d, J=16.2 Hz), 1.52 (3H, s), 1.51 (3H, s), 1.29 (3H, t, J=7.0 Hz), 1.24 (3H, t, J=7.0 Hz). LCMS (M+H) calcd for C14H23N2O7: 315.16. found: 315.33.

reactant | 2-(2-chloroethoxy)-2-methylpropanenitrile | 0.10 mole, 14.7 g | ClCCOC(C#N)(C)C | C6H10ClNO
reactant | NaI | 10 mmol, 1.5 g | [Na+].[I-]
reactant | hydroxylamine | 0.30 mole, 18.4 g | NO | H3NO
reactant | diethyl acetylenedicarboxylate | 0.110 mole, 17.6 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(2-ethoxy-2-oxoethyl)-8,8-dimethyl-2,5,6,8-tetrahydro-[1,2,4]oxadiazolo[3,2-c][1,4]oxazine-2-carboxylate | 15.29 g, 48.6% yield | C(C)OC(CC1(N=C2C(OCCN2O1)(C)C)C(=O)OCC)=O | C14H22N2O6
